US08212034B2
To a cold mixture of 3-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(2E)-acrylic acid (5 ml) in THF (50 ml) methylchloroformate (1.5 ml) was added dropwise at 0-5° C. Reaction mixture was stirred at this temperature for 30 min and sodium borohydride (0.5 g) was added at 0-5° C. The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 30 h. After completion of the reaction, mixture was poured on a cold HCl (100 ml) and extracted with ethyl acetate (50 ml). Organic phase was washed with aqueous sodium bicarbonate (2×50 ml), dried and evaporated to give crude product which was purified by column chromatography using ethyl acetate and hexanes (1:9) to give pure 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl]-(2E)-propenol.

reactant | 3-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(2E)-acrylic acid | 5 ml | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/C(=O)O)C(C)C)N(S(=O)(=O)C)C | C18H20FN3O4S
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | HCl | 100 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl]-(2E)-propenol | FC1=CC=C(C=C1)C1=NC(=NC(=C1C/C=C/O)C(C)C)N(S(=O)(=O)C)C | C18H22FN3O3S
